US09216173B2
Dioxane (1.65 ml) was added to a nitrogen purged flask containing 5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carbonitrile (PrepEx 1.4) (100 mg, 0.330 mmol), tert-butyl 3-amino-1-(methylamino)-1-oxopropan-2-ylcarbamate (72 mg, 0.33 mmol), Xantphos (19 mg, 0.033 mmol), Pd2(dba)3 (24 mg, 0.026 mmol) and cesium carbonate (215 mg, 0.660 mmol). Nitrogen was bubbled through the reaction mixture for 5 minutes. The reaction vessel was then sealed and heated at 100° C. for 2 hours. The reaction mixture was cooled to room temperature, filtered through CELITE, and the filter cake was washed with ethyl acetate (10 mL). The filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-5% methanol/ethyl acetate, linear gradient) to afford tert-butyl [3-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)-1-(methylamino)-1-oxopropan-2-yl]carbamate. MS ESI calc'd. for C22H30N7O3 [M+H]+ 440. found 440.

reactant | 5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carbonitrile | 0.330 mmol, 100 mg | BrC=1C=C(C(=NC1)C#N)NC1=NC(=CC(=C1)C)C | C13H11BrN4
reactant | tert-butyl 3-amino-1-(methylamino)-1-oxopropan-2-ylcarbamate | 0.33 mmol, 72 mg | NCC(C(=O)NC)NC(OC(C)(C)C)=O | C9H19N3O3
reactant | Xantphos | 0.033 mmol, 19 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.660 mmol, 215 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.026 mmol, 24 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Dioxane | 1.65 ml | O1CCOCC1 | C4H8O2
product | tert-butyl [3-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)-1-(methylamino)-1-oxopropan-2-yl]carbamate | C(#N)C1=C(C=C(C=N1)NCC(C(=O)NC)NC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C)C | C22H29N7O3
